US08309595B2
A) 6-methoxy-1-(2-methoxyethyl)-isatin
The title compound was prepared as a red solid, using 6-methoxy-isatin prepared as described in Pavlidis et al. and 2-bromoethyl methyl ether following Method B. Pavlidis, V. H., et al., The Synthesis of a Novel Series of Substituted 2-Phenyl-4H-3,1-benzoxazin-4-ones, Synthetic Communications, 1994, 24:4, 533-548. NMR (CDCl3): δ 3.35 (s, 3H), 3.65 (t, 2H), 3.87 (s, 3H), 3.94 (t, 2H), 6.64 (d, 1H), 7.58 (t, 1H), 7.79 (d, 1H), 13.93 (br s, 1H).

reactant | 6-methoxy-isatin | COC1=CC=C2C(C(NC2=C1)=O)=O | C9H7NO3
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 6-methoxy-1-(2-methoxyethyl)-isatin | COC1=CC=C2C(C(N(C2=C1)CCOC)=O)=O | C12H13NO4
